US06369078B1
trans-N-Boc-2-methyl-6-n-hexylpiperidine
To a stirred solution of 1-(tert-Butoxycarbonyl)-6-methyl-2-n-pentyl-1,2,3,4-tetrahydropyridine (1.0 g, 3.55 mmol) in 240 mL of CH2Cl2 was added sodium cyanoborohydride (1.34 g, 21.3 mmol). After being stirred 15 minutes at room temperature, the heterogeneous solution was cooled to −42° C. and TFA (3.5 mL, 35.53 mmol) was added slowly dropwise. After being stirred for 4 h at −42° C., the cold bath was removed, and the reaction mixture was immediately quenched with 200 mL of a saturated aqueous NaHCO3/THF mixture (50:50). The aqueous phase was extracted with CH2Cl2 (2×70 mL) and the combined organic extracts were washed with water and brine. The organic phase was dried with K2CO3, filtered through Celite, and evaporated to give crude product. Column chromatography using 5% EtOAc in hexanes gave 0.54 g (54%) of the product which was homogeneous by TLC analysis. 1H NMR (300 MHz) δ3.99-3.82 (m, 1 H), 3.79-3.74 (m, 1 H), 1.91-1.15 (m, 28 H), 0.92-0.83 (t, 3 H); 13C NMR (75 Mhz) 155.6 (s), 78.6 (s), 51.6 (s), 46.9 (s) 34.34 (s), 31.9 (s), 29.3 (s), 28.5 (s), 27.1 (s), 26.9 (s), 2.31 (s), 22.6 (s), 20.8 (s), 14.0 (s), 13.7 (s) ppm.

reactant | 1-(tert-Butoxycarbonyl)-6-methyl-2-n-pentyl-1,2,3,4-tetrahydropyridine | 3.55 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(CCC=C1C)CCCCC | C16H29NO2
reactant | sodium cyanoborohydride | 21.3 mmol, 1.34 g | C(#N)[BH3-].[Na+]
reactant | TFA | 35.53 mmol, 3.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 240 mL | C(Cl)Cl | CH2Cl2
product | trans-N-Boc-2-methyl-6-n-hexylpiperidine | 0.54 g, 54% | C(=O)(OC(C)(C)C)N1[C@H](CCC[C@@H]1CCCCCC)C | C17H33NO2
